US05707987
A solution of 4-hydroxymethyl-1-bromonaphthalene (3 g, 12.7 mmol) in tetrahydrofuran (50 ml) was added dropwise to a solution of 1.6M butyl lithium-hexane solution (20.6 ml, 32.9 mmol) in tetrahydrofuran (100 ml) at -72° C. in a nitrogen stream over 30 minutes. The resulting reaction solution was stirred at -72° C. for 30 minutes and a solution of (2S,4R)-N-t-butoxycarbonyl-4-(t-butyldimethylsiloxy)prolinal (4.17 g, 12.7 mmol) in tetrahydrofuran (50 ml) was added dropwise over 10 minutes. Then, the reaction solution was stirred at -63° C. for 10 minutes. After addition of saturated aqueous ammonium chloride, the reaction solution was concentrated in vacuo. The resulting residue was poured into a liquid mixture of ethyl acetate with water. The organic layer was washed with saturated aqueous sodium chloride, dried over anhydrous sodium sulfate, and concentrated in vacuo. The resulting oily residue was subjected to silica gel column chromatography (Wakogel™ C-300 heptane-ethyl acetate 3:1→2:1) to give (2S,4R)-N-t-butoxycarbonyl-4-t-butyldimethylsiloxy-2-[hydroxy(4-hydroxymethyl-1-naphthyl)methyl]pyrrolidine (2.71 g, yield: 44.0%) as a colorless oily substance.

reactant | 4-hydroxymethyl-1-bromonaphthalene | 12.7 mmol, 3 g | OCC1=CC=C(C2=CC=CC=C12)Br | C11H9BrO
reactant | (2S,4R)-N-t-butoxycarbonyl-4-(t-butyldimethylsiloxy)prolinal | 12.7 mmol, 4.17 g | C(C)(C)(C)OC(=O)N1[C@H](C=O)C[C@H](C1)O[Si](C)(C)C(C)(C)C | C16H31NO4Si
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | (2S,4R)-N-t-butoxycarbonyl-4-t-butyldimethylsiloxy-2-[hydroxy(4-hydroxymethyl-1-naphthyl)methyl]pyrrolidine | 2.71 g, yield: 44.0% | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)C(C1=CC=C(C2=CC=CC=C12)CO)O | C27H41NO5Si
